US07091357B2
To a stired solution of (S)-nicotine (0.18 g, 1.1 mmol) in AcOH (4 ml) was added (6-bromo-hexyl)cyclobutane (0.59 g, 2.7 mmol). The mixture was heated at reflux for 3 days. AcOH was evaporated and the residue was recrystallized in ethyl acetate-CHCl3 to afford (S)-1-(6-cyclobutyl-hexyl)-3-(1-methyl-pyrrolidin-2-yl)-pyridinium bromide hydrobromide salt (NCyNB4) (0.31 g, 61%) as hygroscopic white crystals: 1H NMR (300 MHz, CDCl3) δ 11.64 (1H, s), 10.42 (1H, s), 9.54 (1H, d, J=8.1 Hz), 9.06 (1H, d, J=6.0 Hz), 8.27 (1H, dd, J=8.1, 6.0 Hz), 5.74 (1H, m), 4.78 (2H, m), 3.98 (1H, m), 3.34 (1H, m), 2.96 (3H, d, J=5.1 Hz), 2.73 (1H, m), 2.44 (3H, m), 2.14 (3H, m), 1.96 (2H, m), 1.75 (2H, m), 1.51 (2H, m), 1.33 (6H, m), 1.16 (2H, m); 13C NMR (75 MHz, CDCl3) δ 147.61, 146.61, 144.67, 134.77, 128.91, 67.09, 63.07, 56.09, 38.71, 36.99, 36.17, 32.06, 31.76, 29.20, 28.60, 27.14, 26.53, 21.89, 18.72; Anal. Calcd for C20H34Br2N2.0.1H2O: C, 51.56; H, 7.44; N, 6.01. Found: C, 51.70; H, 7.45; N, 5.96.

reactant | (S)-nicotine | 1.1 mmol, 0.18 g | N1=CC=CC(=C1)[C@H]1N(C)CCC1 | C10H14N2
reactant | (6-bromo-hexyl)cyclobutane | 2.7 mmol, 0.59 g | BrCCCCCCC1CCC1 | C10H19Br
solvent | AcOH | 4 ml | CC(=O)O | C2H4O2
product | (S)-1-(6-cyclobutyl-hexyl)-3-(1-methyl-pyrrolidin-2-yl)-pyridinium bromide hydrobromide salt | 0.31 g, 61% | Br.[Br-].C1(CCC1)CCCCCC[N+]1=CC(=CC=C1)[C@H]1N(CCC1)C | InChI=1S/C20H33N2.2BrH/c1-21-14-8-13-20(21)19-12-7-16-22(17-19)15-5-3-2-4-9-18-10-6-11-18;;/h7,12,16-18,20H,2-6,8-11,13-15H2,1H3;2*1H/q+1;;/p-1/t20-;;/m0../s1
